US05750531
Synthesis of 6-methyl-4-(4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.26 ml, 2.74 mmol) was added to a mixture solution of 6-methyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine(0.5 g, 1.8 mmol) and dimethylformamide(10 ml), 0.30 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoroaniline | 2.74 mmol, 0.26 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-methyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine | 1.8 mmol, 0.5 g | CC1=CC(=NC(=N1)N1C(C2=C(CC1)C=CS2)C)Cl | C13H14ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-4-(4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.30 g, Yield: 42.6% | Cl.CC1=CC(=NC(=N1)N1C(C2=C(CC1)C=CS2)C)NC2=CC=C(C=C2)F | InChI=1S/C19H19FN4S.ClH/c1-12-11-17(22-16-5-3-15(20)4-6-16)23-19(21-12)24-9-7-14-8-10-25-18(14)13(24)2;/h3-6,8,10-11,13H,7,9H2,1-2H3,(H,21,22,23);1H
